US06936612B2
A 6-dram vial was charged with {1-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (379 mg, 0.65 mmol) and tetrakis(triphenylphosphine) palladium(0) (75 mg, 0.065 mmol) and the atmosphere replaced with argon. Toluene (5 ml) was added followed by tributyl-(1-ethoxy-vinyl)-stannane (352 mg, 0.97 mmol). The vial was heated to 110° C. and stirred for 12 h. The reaction mixture was diluted with chloroform (25 ml) and adsorbed onto silica gel. Chromatographic purification on silica gel (chloroform/2-propanol+1% TEA gradient) gave (1-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester as a yellow solid (394 mg, 0.68 mmol). MS: (APCI+) 576 (M+1, 100), 548.

reactant | {1-[6-(6-bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 0.65 mmol, 379 mg | C(C)(C)(C)OC(NC1CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2)=O | C27H34BrN7O3
reactant | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.97 mmol, 352 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.065 mmol, 75 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (1-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | 0.68 mmol, 394 mg | C(C)(C)(C)OC(NC1CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)C(=C)OCC)=O)C2CCCC2)=O | C31H41N7O4
